US05482941
2-(2-Ethoxyphenyl)-8-methylquinazolin-4(3H)-one
A stirred mixture of 2-(2-ethoxybenzamido)-3-methoxybenzamide (2.6 g, 0.0083 mol), anhydrous potassium carbonate (2.33 g, 0.017 mol), hydrogen peroxide (30%, 4 ml), ethanol (40 ml) and water (80 ml) was heated under reflux for 1 hour. The mixture was allowed to cool and poured into a mixture of water (200 ml) and dichloromethane (100 ml), then the aqueous phase separated, acidified to pH 4 by the addition of 2N hydrochloric acid and extracted with dichloromethane (2×100 ml). The organic solutions were combined, dried (MgSO4) and evaporated under vacuum to give the title compound, which crystallized from ethyl acetate as a colorless solid (2.8 g, 83%), m.p. 198°-199° C. Found: C,68.88; H,5.50; N,9.30. C17H16N2O3 requires C,68.91; H,5.44; N,9.45%.

reactant | 2-(2-ethoxybenzamido)-3-methoxybenzamide | 0.0083 mol, 2.6 g | C(C)OC1=C(C(=O)NC2=C(C(=O)N)C=CC=C2OC)C=CC=C1 | C17H18N2O4
reactant | potassium carbonate | 0.017 mol, 2.33 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | 4 ml | OO | H2O2
reactant | ethanol | 40 ml | C(C)O | C2H6O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | 200 ml | O | H2O
solvent | water | 80 ml | O | H2O
product | 2-(2-Ethoxyphenyl)-8-methylquinazolin-4(3H)-one | C(C)OC1=C(C=CC=C1)C1=NC2=C(C=CC=C2C(N1)=O)C | C17H16N2O2
